US05763437
To a suspension of sodium hydride (0.32 g of a 60% dispersion in mineral oil) in N,N-dimethylformamide (30 ml) was added gradually (3RS)-2,3-dihydro-5-(2-fluorophenyl)-3-phthalimido-1 H-1,4-benzodiazepin-2-one (2.87 g) under nitrogen atmosphere at cooling in an ice-bath. The mixture was stirred under the same condition for 0.5 hour and at ambient temperature for 1 hour. The mixture was cooled in an ice-bath and a sodium iodide (1.18 g) was added thereto in one portion. To the mixture was added dropwise a solution of 3-chloromethylpyridine (1.00 g) and stirred for 0.5 hour at the same temperature. The mixture was stirred overnight at ambient temperature. To the resultant was added acetic acid (1.5 g) under cooling in an ice-bath. The resultant mixture was poured into water (100 ml) and extracted with ethyl acetate (100 ml). The aqueous layer was adjusted to pH 7.0-8.0 with sodium carbonate and extracted with ethyl acetate (2×50 ml). The combined organic layer was washed with brine and dried over sodium sulfate, filtered and concentrated in vacuo to give a crude compound. The crude compound was purified by flash chromatography on silica gel [eluent (CHCl3 :ethyl acetate =1:1)] to afford (3RS)-2,3-dihydro-5-(2-fluorophenyl)-3-phthalimido-1-(pyridin-3-yl)-methyl-1H -1,4-benzodiazepin-2-one as a colorless crystalline solid (0.67 g).

reactant | sodium hydride | [H-].[Na+]
reactant | (3RS)-2,3-dihydro-5-(2-fluorophenyl)-3-phthalimido-1 H-1,4-benzodiazepin-2-one | 2.87 g | FC1=C(C=CC=C1)C1=NC(C(NC2=C1C=CC=C2)=O)N2C(C=1C(C2=O)=CC=CC1)=O | C23H14FN3O3
reactant | sodium iodide | 1.18 g | [I-].[Na+]
reactant | 3-chloromethylpyridine | 1.00 g | ClCC=1C=NC=CC1 | C6H6ClN
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
solvent | acetic acid | 1.5 g | C(C)(=O)O | C2H4O2
product | (3RS)-2,3-dihydro-5-(2-fluorophenyl)-3-phthalimido-1-(pyridin-3-yl)-methyl-1H -1,4-benzodiazepin-2-one | 0.67 g | FC1=C(C=CC=C1)C1=NC(C(N(C2=C1C=CC=C2)C=2C=NC=CC2)=O)(N2C(C=1C(C2=O)=CC=CC1)=O)C | C29H19FN4O3
